********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*  Model for Vishay Schottky diode 
*  BAT41 
*  model is valid for 25°C to 125°C
*
*  VISHAY Semiconductor GmbH
*  Hartmut Harmel, 10 July 2007
*
.SUBCKT bat41 1 2
.MODEL SD D (
+ N=1.0
+ IS=11E-9
+ RS=90
+ trs1=0.014
+ IKF= 0.95
+ CJO=2.0p
+ VJ=0.805
+ M=.36
+ FC=0.5
+ TT=2E-9
+ BV=105
+ ISR=2.5e-10
+ NR=1.15
+ IBV=10
+ KF=0
+ AF=1 
+ EG=0.66
+ XTI=2
+ TBV1=0.0006)
.model AD D (
+ N=1.80
+ IS=1.89E-9
+ RS=0.324
+ trs1=-0.0002
+ IKF= 0.097
+ CJO=1.4p
+ VJ=0.5
+ M=.34
+ FC=0.5
+ TT=6E-8
+ BV=105
+ TBV1=0.0006
+ ISR=6.4e-10
+ NR=1200
+ IBV=0.001
+ KF=0
+ AF=1
+ EG=1.15)
D1 1 2 SD
D3 1 2 AD
.ENDS